US08030305B2
(2-Chloro-quinolin-6-yl)-acetic acid hydrazide (0.030 g, 0.127 mmol) and 3-chloro-6-pyridin-3-yl-pyridazine (0.024 g, 0.127 mmol) were heated to reflux in butanol (0.5 mL) for several hours. The reaction was cooled to room temperature and filtered. The filtrate was purified via reverse phase HPLC on a C18 column eluting with acetonitrile in water (0.1% TFA) to give 0.017 g (35%) of 2-chloro-6-(6-pyridin-3-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline.

reactant | (2-Chloro-quinolin-6-yl)-acetic acid hydrazide | 0.127 mmol, 0.030 g | ClC1=NC2=CC=C(C=C2C=C1)CC(=O)NN | C11H10ClN3O
reactant | 3-chloro-6-pyridin-3-yl-pyridazine | 0.127 mmol, 0.024 g | ClC=1N=NC(=CC1)C=1C=NC=CC1 | C9H6ClN3
solvent | butanol | 0.5 mL | C(CCC)O | C4H10O
product | 2-chloro-6-(6-pyridin-3-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 0.017 g, 35% | ClC1=NC2=CC=C(C=C2C=C1)CC1=NN=C2N1N=C(C=C2)C=2C=NC=CC2 | C20H13ClN6
